US09193726B2
Step 1. Synthesis of tert-butyl[(2S)-4-chloro-3-oxobutan-2-yl]carbamate (C43)
A solution of chloroacetic acid (23.2 g, 246 mmol) in tetrahydrofuran (100 mL) was added over 35 minutes to a −78° C. solution of lithium diisopropylamide in tetrahydrofuran (2.05 M, 240 mL, 492 mmol), at a rate that kept the internal temperature below −65° C. After 30 minutes, the reaction mixture was quickly transferred into a (dry ice)-jacketed addition funnel and added over 5 minutes to a solution of methyl N-(tert-butoxycarbonyl)-L-alaninate (10.0 g, 49.2 mmol) in tetrahydrofuran (120 mL). Mechanical stirring was used for this reaction. The mixture was stirred for 30 minutes, during which time the reaction mixture warmed to 0° C. It was cooled to −78° C. and treated over 10 minutes with a solution of acetic acid (41 mL, 720 mmol) in tetrahydrofuran (41 mL). At this point, the flask was immersed in an ice bath, and stirring was continued for 1.5 hours, while the reaction warmed to 5° C. Water (250 mL) was added, followed by diethyl ether (400 mL); the organic layer was washed with saturated aqueous sodium bicarbonate solution (150 mL) and with saturated aqueous sodium chloride solution (50 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo to afford the product as a waxy, light yellow solid. Yield: 9.47 g, 42.7 mmol, 87%. 1H NMR (400 MHz, CDCl3) δ 5.11 (br d, J=6 Hz, 1H), 4.48-4.58 (m, 1H), 4.28 (AB quartet, JAB=15.9 Hz, ΔνAB=8.3 Hz, 2H), 1.44 (s, 9H), 1.38 (d, J=7.1 Hz, 3H).

reactant | chloroacetic acid | 246 mmol, 23.2 g | ClCC(=O)O | C2H3ClO2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | dry ice | C(=O)=O | CO2
reactant | methyl N-(tert-butoxycarbonyl)-L-alaninate | 49.2 mmol, 10.0 g | C(C)(C)(C)OC(=O)N[C@@H](C)C(=O)OC | C9H17NO4
reactant | acetic acid | 720 mmol, 41 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 41 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 492 mmol, 2.05 M, 240 mL | O1CCCC1 | C4H8O
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | Water | 250 mL | O | H2O
product | tert-butyl[(2S)-4-chloro-3-oxobutan-2-yl]carbamate | C(C)(C)(C)OC(N[C@@H](C)C(CCl)=O)=O | C9H16ClNO3
